US04699992
17.5 g of ethyl 3-diethylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylate are heated to boiling under reflux with 2.9 g of cyclopropylamine and 50 ml of toluene for 30 minutes. The toluene is removed by distillation in vacuo, and the residue, which solidifies to crystals, is recrystallized from cyclohexane/light petroleum. 12.9 g of ethyl 3-cyclopropylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylate of melting point 89°-90° C. are obtained.

reactant | ethyl 3-diethylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylate | 17.5 g | C(C)N(C=C(C(=O)OCC)C(C1=C(C=C(C(=C1)F)Cl)Cl)=O)CC | C16H18Cl2FNO3
reactant | cyclopropylamine | 2.9 g | C1(CC1)N | C3H7N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-cyclopropylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylate | 12.9 g | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C=C(C(=C1)F)Cl)Cl)=O | C15H14Cl2FNO3
